US04301280
p-Nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-morpholinoethylidene)acetate
To a stirred solution of phenyl 1-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en2-yl phenylphosphonate (1.37 g.) in tetrahydrofuran (20 ml.) at 0°-5° C. was added morpholine (0.383 ml.). After stirring for 3 hours at 0°-5° C., the solvent was evaporated and the residue dissolved in dichloromethane. The resulting solution was washed with water and then with saturated sodium chloride solution, dried with magnesium sulphate and evaporated to give the title compound as a pale yellow foam in essentially quantitative yield. The product obtained was a mixture of geometric isomers (ca. 1:1.4) about the enamine double bond and was identical to that produced in example 8.

reactant | phenyl 1-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en2-yl phenylphosphonate | 1.37 g | C1(=CC=CC=C1)P(OC1=CC=CC=C1)(OC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C2SC(=NC2C1=O)COC1=CC=CC=C1)C)=O | C34H28N3O9PS
reactant | morpholine | 0.383 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | p-Nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-morpholinoethylidene)acetate | quantitative yield | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O | C26H26N4O7S
